* source SCHEMA_BLOC
V_V1         VIN 0  AC 540m
+SIN 0 540m 1k 0 0 0
R_R1         0 VIN  220k TC=0,0 
Q_Q1         N00223 VIN N00500 QBC846B 
Q_Q3         N00223 N00316 N15428 QBC856B 
Q_Q4         N00316 N00316 N15404 QBC856B 
R_R2         N15428 VDD  220 TC=0,0 
R_R3         N15404 VDD  220 TC=0,0 
Q_Q2         N00316 N02160 N00500 QBC846B 
Q_Q5         N00500 N01385 N00580 QBC846B 
R_R4         VSS N00580  470 TC=0,0 
R_R5         N01385 0  2.2k TC=0,0 
Q_Q7         N01272 N00223 N11121 QBC856B 
C_C1         N00223 N01272  470p  TC=0,0 
R_R6         VSS N01577  330 TC=0,0 
Q_Q6         N14490 N01385 N01577 QBC846B 
R_R8         N02160 VOUT  8.2k TC=0,0 
R_R9         0 N02160  910 TC=0,0 
R_R10         N023821 VOUT  22 TC=0,0 
R_R11         N054491 N023821  22 TC=0,0 
X_U2         N07242 VSS 1N4148 
X_U1         N01385 N07242 1N4148 
R_R7         N11121 VDD  330 TC=0,0 
C_C2         N11121 VDD  1u  TC=0,0 
X_U3         N01272 N16020 1N4148 
X_U4         N16020 N14490 1N4148 
V_Vdd         VDD 0 8Vdc
V_Vss         0 VSS 8Vdc
R_R12         N356941 N054491  22 TC=0,0 
R_R13         0 N356941  22 TC=0,0 
Q_Q8         VDD N01272 VOUT QBC846B 
Q_Q9         VSS N14490 VOUT QBC856B 
R_R14         N546641 VDD  150 TC=0,0 
X_D1         N55684 0 LED PARAMS: IS=1.7603e-027 RS=3  BV=5 IBV=5e-6         
R_R15         VSS N552660  150 TC=0,0 
X_D2         0 N56498 LED PARAMS: IS=1.7603e-027 RS=3  BV=5 IBV=5e-6         
R_R16         N55684 N546641  82 TC=0,0 
R_R17         N552660 N56498  82 TC=0,0 
